US08426417B2
To a solution of 2-trifluoromethoxy-5-bromo-phenylamine (5.12 g, 20 mmol) in EtOH (50 mL) at 0° C. was added a solution of acetic anhydride (4.7 mL, 50 mmol) in EtOH (10 mL). The mixture was stirred at room temperature overnight. The solvent was evaporated to dryness and the solid was tritured with diethyl ether and filtered to give 5.64 g (95% yield) of N-(5-bromo-2-trifluoromethoxy-phenyl)-acetamide.

reactant | 2-trifluoromethoxy-5-bromo-phenylamine | 20 mmol, 5.12 g | FC(OC1=C(C=C(C=C1)Br)N)(F)F | C7H5BrF3NO
reactant | acetic anhydride | 50 mmol, 4.7 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | EtOH | 50 mL | CCO | C2H6O
solvent | EtOH | 10 mL | CCO | C2H6O
product | N-(5-bromo-2-trifluoromethoxy-phenyl)-acetamide | 5.64 g, 95% yield | BrC=1C=CC(=C(C1)NC(C)=O)OC(F)(F)F | C9H7BrF3NO2
